US07125871B2
(2SR, 1′SR, 2′RS, 3′RS)-2-[2′-carboxy-3′-(phenylaminocarbonyl)cyclopropyl]glycine
To a solution of AlCl3 (53.8 mg, 0.40 mmol) in dry CH2Cl2 (1 mL) at 0° C., aniline (70 μl, 0.77 mmol) in CH2Cl2 (0.5 mL) was added dropwise. The mixture was stirred at room temperature for 10 min, and then ethyl (1SR, 2 SR, 5RS, 6RS) 3-tert-butoxycarbonyl-4-oxo-3-azabicyclo[3.1.0)hexane-2,6-dicarboxylate (106 mg 0.31 mmol) in dry CH2Cl2 (0.5 mL) was added. After stirring at room temperature for 4 h, a mixture of ice and water was added. The layers were separated and the aqueous phase was extracted with CH2Cl2 (X3). The combined organic layers were dried over MgSO4 and the solvent removed under reduced pressure. The residue was purified by flash chromatography (hexane/ethyl acetate 1/1) to give 67.5 mg of the desired compound (50% yield).

reactant | AlCl3 | 0.40 mmol, 53.8 mg | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | aniline | 0.77 mmol, 70 μl | NC1=CC=CC=C1 | C6H7N
reactant | 3-tert-butoxycarbonyl-4-oxo-3-azabicyclo[3.1.0)hexane-2,6-dicarboxylate | 0.31 mmol, 106 mg | C(C)(C)(C)OC(=O)N1C(C2C(C2C1=O)C(=O)[O-])C(=O)[O-]
reactant | water | O | H2O
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 0.5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 0.5 mL | C(Cl)Cl | CH2Cl2
product | 2-[2′-carboxy-3′-(phenylaminocarbonyl)cyclopropyl]glycine | 67.5 mg, 50% yield | C(=O)(O)C1C(C1C(=O)NC1=CC=CC=C1)C(N)C(=O)O | C13H14N2O5
